US07846925B2
To a solution of methyl-4-chloroquinazoline-6-carboxylate (3.5 g, 0015 mol) in dry THF (35 mL) at −25° C. was added DIBAL-H (4.4 g, 0.031 mol) and stirred at −25° C. to RT for 2 h. The reaction mixture was cooled to −10° C. and quenched with 10% aqueous NaHCO3 (9 mL). The reaction mixture was extracted with ethylacetate (100 mL), washed with water, brine and dried. The solvent was removed under vacuum to give 4-chloroquinoline-6-yl methanol (2 g, 66%).

reactant | methyl-4-chloroquinazoline-6-carboxylate | 3.5 g | COC(=O)C=1C=C2C(=NC=NC2=CC1)Cl | C10H7ClN2O2
reactant | DIBAL-H | 0.031 mol, 4.4 g | CC(C)C[AlH]CC(C)C
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 4-chloroquinoline-6-yl methanol | 2 g, 66% | ClC1=CC=NC2=CC=C(C=C12)CO | C10H8ClNO
